US07642264B2
2-(4-Bromo-thiazol-2-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)pyridine (example A.31) (4.0 g, 9.36 mmol) and commercially available 2,4-dibromo-thiazole (2.53 g, 10.41 mmol) according to the general procedure IVc protocol b. Obtained as a light yellow solid (1.22 g, 31%). MS (ISP) 399.1 [(M+H)+] and 401.1 [(M+2+H)+].

reactant | 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)pyridine | 9.36 mmol, 4.0 g | IC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C13H9F3IN
reactant | 2,4-dibromo-thiazole | 10.41 mmol, 2.53 g | BrC=1SC=C(N1)Br | C3HBr2NS
product | 2-(4-Bromo-thiazol-2-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine | BrC=1N=C(SC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C16H10BrF3N2S
